US08193246B2
Step e. Synthesis of 22-Oxo-docosanoic acid
3.9 g 22-Hydroxy-docosanoic acid (1 eq.) was oxidized with 4.72 g PCC (Pyridinium chlorochromate) (2 eq.) for about 2 hours under reflux as described in example 1, step a.

reactant | 22-Hydroxy-docosanoic acid | 3.9 g, 1 eq. | OCCCCCCCCCCCCCCCCCCCCCC(=O)O | C22H44O3
reactant | PCC | 4.72 g, 2 eq. | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
product | 22-Oxo-docosanoic acid | O=CCCCCCCCCCCCCCCCCCCCCC(=O)O | C22H42O3
